US07902394B2
(a) Ethyl 3-(3,4-difluoro-5-hydroxyphenyl)pentanoate
A mixture of 5-bromo-2,3-difluorophenol (20 g 0.0957 mol), ethyl pentenoate (24.53 g, 0.191 mol), N,N-diisopropylamine (66.68 ml, 0.383 mol) and catalytic reagents [Pd(OAc)2=2.15 g, 9.57 mmol; P(O-tol)3=11.65 g, 0.0383 mol] in propionitrile (500 mL) in solution was degassed by bubbling nitrogen. The reactions were heated to 120° C. overnight. The reaction mixtures were filtered through a Celite and washed with CH2Cl2 and filtrates were combined and concentrated. The crude residue was purified by flash column chromatography eluting with 0-10% EtOAc in hexanes to afford the desired product (21.5 g). Subsequent hydrogenation in Parr shaker using Pd/C at 65 psi overnight, followed by filtration, concentration and column chromatography (0-10% ethyl acetate:hexane) afforded the desired product (17.6 g, 71%).

reactant | 5-bromo-2,3-difluorophenol | 0.0957 mol, 20 g | BrC=1C=C(C(=C(C1)O)F)F | C6H3BrF2O
reactant | ethyl pentenoate | 0.191 mol, 24.53 g | C(C=CCC)(=O)OCC | C7H12O2
reactant | N,N-diisopropylamine | 0.383 mol, 66.68 ml | C(C)(C)NC(C)C | C6H15N
reactant | P(O-tol)3 | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
solvent | propionitrile | 500 mL | C(CC)#N | C3H5N
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Ethyl 3-(3,4-difluoro-5-hydroxyphenyl)pentanoate | 21.5 g | FC=1C=C(C=C(C1F)O)C(CC(=O)OCC)CC | C13H16F2O3
